US06320068B1
Preparation 3 Methyl 2-trifluoromethanesulfonyloxysalicylate
Trifluoromethanesulfonic anhydride (28.4 mL, 169 mmol, 1.1 eq) was added to a solution of methyl salicylate (20 mL, 154 mmol) and pyridine (31 mL, 385 mmol, 2.5 eq) in dichloromethane (150 mL) maintained at an internal temperature about −40° C., under nitrogen. Once the addition was complete, the mixture was allowed to warm to ambient temperature and stirred for 16 hours. Toluene (150 mL) was added causing precipitation. The solids were removed by filtration and washed with toluene (20 mL). The organic solutions were combined and washed with 2 N HCl (aq) (2×50 mL), water (100 mL), saturated aqueous sodium carbonate solution (100 mL) and brine (100 mL). The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure. Yield 41.93 g, 96%

reactant | Trifluoromethanesulfonic anhydride | 169 mmol, 28.4 mL, 1.1 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl salicylate | 154 mmol, 20 mL | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | pyridine | 385 mmol, 31 mL, 2.5 eq | N1=CC=CC=C1 | C5H5N
reactant | Toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | Methyl 2-trifluoromethanesulfonyloxysalicylate | FC(S(=O)(=O)OC1(C(C(=O)OC)C=CC=C1)O)(F)F | C9H9F3O6S
